US07956070B2
Step 2: 1-(4-Methoxybenzyl)-5-[(methylsulfonyl)amino]-1H-1,2,3-triazole-4-carboxylic acid
Ethyl 5-amino-1-(4-methoxybenzyl)-1H-1,2,3-triazole-4-carboxylate (0.85 g) and methane sulphonyl chloride (0.72 mL) were stirred in pyridine (20 mL) for 4 d. Further methane sulphonyl chloride (0.72 mL) was added and stirring continued for 24 h. Further methane sulphonyl chloride (0.5 mL) was added and stirring continued for 24 h. The mixture was concentrated in vacuo. The residue was suspended in dilute hydrochloric acid and extracted with ethyl acetate. The extracts were washed with dilute hydrochloric acid and water then evaporated. The residue was taken up in ethanol (70 mL) and 2 M sodium hydroxide solution (70 mL) and stirred for 18 h. The mixture was concentrated to about half volume and acidified with dilute hydrochloric acid. The mixture was extracted with ethyl acetate and the extracts were washed with water and brine, then dried and evaporated to leave a white solid (0.90 g).

reactant | Ethyl 5-amino-1-(4-methoxybenzyl)-1H-1,2,3-triazole-4-carboxylate | 0.85 g | NC1=C(N=NN1CC1=CC=C(C=C1)OC)C(=O)OCC | C13H16N4O3
reactant | methane sulphonyl chloride | 0.72 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methane sulphonyl chloride | 0.72 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methane sulphonyl chloride | 0.5 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4-Methoxybenzyl)-5-[(methylsulfonyl)amino]-1H-1,2,3-triazole-4-carboxylic acid | 0.90 g | COC1=CC=C(CN2N=NC(=C2NS(=O)(=O)C)C(=O)O)C=C1 | C12H14N4O5S
